US06284785B1
(RS)-1-(4-Bromo-benzenesulfonyl)-2-(4-fluoro-phenyl)-pyrrolidine
The title compound, off-white solid, m.p. 131° C. and MS: m/e=383 (M+) was prepared in accordance with the general method of example 1e from (RS)-2-(4-fluoro-phenyl)-pyrrolidine and 4-bromo-benzenesulfonyl chloride.

reactant | (RS)-2-(4-fluoro-phenyl)-pyrrolidine | FC1=CC=C(C=C1)C1NCCC1 | C10H12FN
reactant | 4-bromo-benzenesulfonyl chloride | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
product | (RS)-1-(4-Bromo-benzenesulfonyl)-2-(4-fluoro-phenyl)-pyrrolidine | BrC1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)C1=CC=C(C=C1)F | C16H15BrFNO2S
